US07012075B2
To a dry degassed DMF solution (50 mL) of 2,2,2-trichloroethyl 4-bromo-5-methylisoxazol-3-ylcarbamate (2.67 g, 7.58 mmol), DL methyl leucate (2.31 g, 15.8 mmol), and triphenyl phosphine (4.11 g, 15.7 mmol) was added diisopropyl azodicarboxylate (3.1 ml, 15.7 mmol) at 0° C. over 2 hours. The reaction was allowed to warm to room temperature while stirring overnight. Water was added and the product was extracted with ether (2×) then ethyl acetate (2×), dried over Na2SO4 and concentrated in vacuo. The crude product was purified by flash chromatography (20% ethyl acetate/hexane) to afford methyl N-(4-bromo-5-methylisoxazol-3-yl)-N-[(2,2,2-trichloroethoxy)carbonyl]leucinate.

reactant | 2,2,2-trichloroethyl 4-bromo-5-methylisoxazol-3-ylcarbamate | 7.58 mmol, 2.67 g | BrC=1C(=NOC1C)NC(OCC(Cl)(Cl)Cl)=O | C7H6BrCl3N2O3
reactant | methyl leucate | 15.8 mmol, 2.31 g | C(C(O)CC(C)C)(=O)OC | C7H14O3
reactant | triphenyl phosphine | 15.7 mmol, 4.11 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 15.7 mmol, 3.1 ml | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | Water | O | H2O
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | methyl N-(4-bromo-5-methylisoxazol-3-yl)-N-[(2,2,2-trichloroethoxy)carbonyl]leucinate | BrC=1C(=NOC1C)N([C@@H](CC(C)C)C(=O)OC)C(=O)OCC(Cl)(Cl)Cl | C14H18BrCl3N2O5
